US07705043B2
Methyl 4-{[(2-{3-[(4-bromobenzyl)oxy]-6-methyl-2-pyridinyl}ethyl)amino]methyl}benzoate
A solution of 675 mg (2.10 mmol) of 2-{3-[(4-bromobenzyl)oxy]-6-methyl-2-pyridinyl}ethylamine and 345 mg (2.10 mmol) of methyl 4-formylbenzoate in 5 ml of ethanol is heated at reflux for two hours. The solvent is then removed under reduced pressure and the resulting residue is dissolved in 5 ml of methanol. A total of 159 mg (4.21 mmol) of solid NaBH4 are added a little at a time. After two hours of stirring at room temperature, the mixture is poured into water and extracted with ethyl acetate. The organic extract is washed with saturated sodium chloride solution and dried over Na2SO4. After filtration, the solvent is removed under reduced pressure and the resulting crude product is purified by preparative HPLC. This gives 351 mg (0.75 mmol, 35% yield) of a colorless oil.

reactant | 2-{3-[(4-bromobenzyl)oxy]-6-methyl-2-pyridinyl}ethylamine | 2.10 mmol, 675 mg | BrC1=CC=C(COC=2C(=NC(=CC2)C)CCN)C=C1 | C15H17BrN2O
reactant | methyl 4-formylbenzoate | 2.10 mmol, 345 mg | C(=O)C1=CC=C(C(=O)OC)C=C1 | C9H8O3
reactant | NaBH4 | [BH4-].[Na+]
reactant | water | O | H2O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | Methyl 4-{[(2-{3-[(4-bromobenzyl)oxy]-6-methyl-2-pyridinyl}ethyl)amino]methyl}benzoate | 0.75 mmol, 351 mg, 35% yield | BrC1=CC=C(COC=2C(=NC(=CC2)C)CCNCC2=CC=C(C(=O)OC)C=C2)C=C1 | C24H25BrN2O3
